simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vsig (raw_level 0) vsource type=pwl wave=[ 0 0.0 25n 0.1 50n 0.45 75n 0.85 100n 0.9 120n 0.35 ]

XDUT (raw_level vdd vss clamped_level) voltage_clamp

tran tran stop=120n maxstep=500p
save raw_level clamped_level
